US06768019B2
Preparation of (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one O-ethyl Oxime
(E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one oxime (50 mg, 0.15 mmol), ethyl iodide (0.0147 ml, 0.18 mmol) and potassium carbonate (0.063 g, 0.46 mmol) were added into dimethylformamide (2.0 ml). Then, the solution was stirred at 60-65° C. overnight, and cooled to room temperature. Again, water and dichloromethane were added, and an organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to remove organic solvent. The residue was purified through silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2, v/v). As a result, 44 mg of the present compound (productive yield 81%) was obtained as a white solid crystal.

reactant | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one oxime | 0.15 mmol, 50 mg | CS(=O)(=O)C1=CC=C(C=C2/C(/CCC3=CC=CC=C23)=N/O)C=C1 | C18H17NO3S
reactant | ethyl iodide | 0.18 mmol, 0.0147 ml | C(C)I | C2H5I
reactant | potassium carbonate | 0.46 mmol, 0.063 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one O-ethyl Oxime | 44 mg, yield 81% | C(C)O\N=C/1\C(C2=CC=CC=C2CC1)=CC1=CC=C(C=C1)S(=O)(=O)C | C20H21NO3S
